### PR TITLE
refactor: remove h_mono from PolyTimeComputable.comp

### LINKED ISSUE #378: remove `h_mono` assumption
by developing function to convert PolyTimeComputable into one with monotone time bound

https://github.com/leanprover/cslib/blob/2a1f434249bff7e88b1504ec52b96eee9e84e669/Cslib/Computability/Machines/SingleTapeTuring/Basic.lean#L487-L488

### PR DESCRIPTION
**Pull request by JohnEdwardJennings**
This PR adds proofs autoformalised by @Aristotle-Harmonic.
Co-authored-by: Aristotle (Harmonic) <aristotle-harmonic@harmonic.fun>

Fixes #378  

Summary of changes:
Resolved the TODO on lines 487-488 of `Cslib/Computability/Machines/SingleTapeTuring/Basic.lean` which asked to remove the `h_mono : Monotone hg.time_bound` assumption from `PolyTimeComputable.comp` by developing a function to convert a `PolyTimeComputable` into one with a monotone time bound.

Changes made:

1. **Added `monotonizeBound`** — a function that monotonizes `f : ℕ → ℕ` by taking `(Finset.range (n+1)).sup' ... f`, i.e. the maximum of `f` over `{0, ..., n}`.

2. **Added supporting lemmas**:
   - `monotonizeBound_mono`: the monotonized bound is monotone
   - `le_monotonizeBound`: the original function is bounded by the monotonized version
   - `monotonizeBound_le_of_le`: if `f` is bounded by a monotone `g`, the monotonized `f` is also bounded by `g`

3. **Added `TimeComputable.withMonotoneBound`** — converts a `TimeComputable` to one with a monotone time bound using `monotonizeBound`.

4. **Added `PolyTimeComputable.withMonotoneBound`** — converts a `PolyTimeComputable` to one with a monotone time bound, preserving the polynomial bound (using the fact that `Polynomial.eval_mono` gives monotonicity of polynomial evaluation over `ℕ`).

5. **Removed `h_mono` from `PolyTimeComputable.comp`** — the composition now internally monotonizes `hg`'s time bound before passing it to `TimeComputable.comp`, eliminating the need for the caller to supply a monotonicity proof.

### CODE REVIEW

**Comment by chenson2018** [comment]
@BoltonBailey Could you have a first look at this since it was your TODO comment?

**Comment by BoltonBailey** [comment]
Yep, this resolves the issue. I will leave some review comments but otherwise this seems like a good solution.

File: Cslib/Computability/Machines/SingleTapeTuring/Basic.lean [hunk 1]
```diff
@@ -451,6 +452,40 @@ def TimeComputable.comp {f g : List Symbol → List Symbol}
...
+by replacing the time bound with its monotonization.
+-/
+def TimeComputable.withMonotoneBound {f : List Symbol → List Symbol}
+    (hf : TimeComputable f) : TimeComputable f where
+  tm := hf.tm
+  time_bound := monotonizeBound hf.time_bound
+  outputsFunInTime a :=
+    RelatesWithinSteps.of_le (hf.outputsFunInTime a) (le_monotonizeBound _ _)
+
+set_option linter.unusedSectionVars false in
```
Comment (BoltonBailey) [inline Cslib/Computability/Machines/SingleTapeTuring/Basic.lean:484]: It seems the issue here is better solved by removing the redundant `variable [Inhabited Symbol] [Fintype Symbol]` above than by silencing the linter.

File: Cslib/Computability/Machines/SingleTapeTuring/Basic.lean [hunk 2]
```diff
@@ -484,22 +519,58 @@ noncomputable def PolyTimeComputable.id : PolyTimeComputable (Symbol := Symbol)
   poly := 1
   bounds _ := by simp [TimeComputable.id]
 
--- TODO remove `h_mono` assumption
--- by developing function to convert PolyTimeComputable into one with monotone time bound
+private lemma Polynomial.eval_mono_nat {p : Polynomial ℕ} {a b : ℕ} (h : a ≤ b) :
```
Comment (BoltonBailey) [inline Cslib/Computability/Machines/SingleTapeTuring/Basic.lean:522]: I don't know if this lemma should be private. Rather, I think I would hide it away in a file in `/Data`. 

It is a bit surprising that there is not a more general version in mathlib somewhere that says that p.eval is monotone if all the coefficients are nonnegative / if the semiring we are working over has a typeclass that says every element is nonnegative, but I am not sure what CSLib's stance on generality is.

File: Cslib/Computability/Machines/SingleTapeTuring/Basic.lean [hunk 3]
```diff
@@ -484,22 +519,58 @@ noncomputable def PolyTimeComputable.id : PolyTimeComputable (Symbol := Symbol)
...
+  -- By definition of polynomial evaluation, we can rewrite the goal using the sums of the
+  -- coefficients multiplied by the powers of a and b.
+  simp only [eval_eq_sum, sum_def] at *;
+  -- Apply the hypothesis `h_sum_le` directly to conclude the proof.
+  exact h_sum_le
+
+/--
+Convert a `PolyTimeComputable` to one with a monotone time bound.
+-/
+private noncomputable def PolyTimeComputable.withMonotoneBound {f : List Symbol → List Symbol}
```
Comment (BoltonBailey) [inline Cslib/Computability/Machines/SingleTapeTuring/Basic.lean:551]: I also don't think this has to be private.

File: Cslib/Computability/Machines/SingleTapeTuring/Basic.lean [hunk 4]
```diff
@@ -451,6 +452,40 @@ def TimeComputable.comp {f g : List Symbol → List Symbol}
       -- Use the lemma about output length being bounded by input length + time
       exact output_length_le_input_length_add_time hf.tm _ _ _ (hf.outputsFunInTime a)
 
+/--
+Monotonize a function `f : ℕ → ℕ` by taking the supremum over all values up to `n`.
+-/
+def monotonizeBound (f : ℕ → ℕ) (n : ℕ) : ℕ :=
```
Comment (BoltonBailey) [inline Cslib/Computability/Machines/SingleTapeTuring/Basic.lean:458]: I might put this definition and lemmas in a file in `/Data`, as it seems generally useful.

**Review by BoltonBailey — CHANGES_REQUESTED** [review]

File: Cslib/Computability/Machines/SingleTapeTuring/Basic.lean (hunk 1 above)
Comment (BoltonBailey) [reply Cslib/Computability/Machines/SingleTapeTuring/Basic.lean:484]: (I guess my fault for not catching this, in my defense it is hard to know what `variables` are present, the VSCode extension/LSP should do a better job of showing this)

**Comment by BoltonBailey** [comment]
@chenson2018 @JohnEdwardJennings It looks like progress on this PR isn't being made, but I'd still like to see it cleaned up and merged. Could I or someone else take it over if the author doesn't want to continue with it?
